US09079835B2
To a flame-dried round-bottomed flask equipped with two dropping funnels was added iPr2NH (2.5 equiv, 71.4 mmol, 7.22 g, 10.0 mL) and THF (225 mL) and the solution was cooled to 0° C. nBuLi (2.5 equiv, 71.4 mmol, 44.6 mL of a nominally 1.6 M solution in hexanes) was added dropwise and the reaction was stirred for 30 min at 0° C. nBu3SnH (2.3 equiv, 65.6 mmol, 19.1 g, 17.7 mL) was added dropwise and the reaction was stirred for 30 min at 0° C. The reaction was cooled to −50° C. by the controlled addition of dry ice to acetone and CuCN (2.3 equiv, 65.6 mmol, 5.88 g) was added in one portion. The reaction was stirred for 45 min at −50° C. then cooled to −78° C. MeOH (1.70 mL) was added followed by the addition of methyl-11-[(tetrahydro-2H-pyran-2-yl)oxy]-undecynoate (1 equiv, 28.5 mmol, 8.46 g) in THF (85 mL) in one portion. The reaction was stirred at −78° C. for 10 min, then quenched with 170 mL of aq. NH4Cl/NH4OH (pH ˜8) and diluted with 150 mL Et2O. The reaction was warmed to rt (orange color is discharged and solution turns colorless), the layers were separated, and the aqueous layer extracted with Et2O (3×120 mL). The combined organic layers were washed with aq. NH4Cl/NH4OH (pH ˜8) (100 mL), and brine (120 mL), dried with Na2SO4, concentrated in vacuo, and purified by flash column chromatography (step gradient, Hex to 5% EtOAc/Hex) to afford (E)-methyl 11-((tetrahydro-2H-pyran-2-yl)oxy)-3-(tributylstannyl)undec-2-enoate (15.1 g, 25.5 mmol, 90%). TLC Rf=0.30 (5% EtOAc/Hex); 1HNMR (500 MHz): δ 5.86-6.03 (m, 1H), 4.56-4.62 (m, 1H), 3.85-3.92 (m, 1H), 3.74 (dt, 1H, J1=9.6 Hz, J2=6.9 Hz), 3.70 (s, 3H), 3.47-3.54 (m, 1H), 3.39 (dt, 1H, J1=9.6 Hz, J2=6.7 Hz), 2.78-2.97 (m, 2H). 1.79-1.90 (1H), 1.69-1.77 (1H), 1.27-1.65 (29H), 0.93-0.99 (5H), 0.91 (t, 9H, J=7.3 Hz); 13CNMR (125 MHz): δ 174.9, 164.6, 127.0, 98.8, 67.7, 62.3, 50.8, 35.3, 30.8, 29.8, 29.77, 29.68, 29.5, 29.0, 27.4, 26.3, 25.5, 19.7, 13.7, 10.0; FTIR: 2918, 2852, 1717, 1591, 1456, 1431, 1351, 1189, 1162, 1136, 1121, 1077, 1022, 867 cm−1; HRMS-ESI: calc. for C29H56NaO4Sn (M+Na)+: 611.3104. found: 611.3111.

reactant | iPr2NH | 71.4 mmol, 10.0 mL, 7.22 g, 2.5 equiv | N(C(C)C)C(C)C | C6H15N
reactant | nBuLi | [Li]CCCC
reactant | nBu3SnH | 65.6 mmol, 17.7 mL, 19.1 g, 2.3 equiv | [SnH](CCCC)(CCCC)CCCC
reactant | dry ice | C(=O)=O | CO2
reactant | CuCN | 65.6 mmol, 5.88 g, 2.3 equiv | C(#N)[Cu]
reactant | methyl-11-[(tetrahydro-2H-pyran-2-yl)oxy]-undecynoate | 28.5 mmol, 8.46 g, 1 equiv | COC(C#CCCCCCCCCOC1OCCCC1)=O | C17H28O4
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | THF | 225 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.70 mL | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | (E)-methyl 11-((tetrahydro-2H-pyran-2-yl)oxy)-3-(tributylstannyl)undec-2-enoate | 25.5 mmol, 15.1 g, 90% | O1C(CCCC1)OCCCCCCCC\C(=C/C(=O)OC)\[Sn](CCCC)(CCCC)CCCC | InChI=1S/C17H29O4.3C4H9.Sn/c1-19-16(18)12-8-6-4-2-3-5-7-10-14-20-17-13-9-11-15-21-17;3*1-3-4-2;/h12,17H,2-7,9-11,13-15H2,1H3;3*1,3-4H2,2H3;
